US06586423B2
4-(tert-Butyl-dimethyl-silanyloxymethyl)-pyridin-2-ylamine (8-5)
(2-Amino-pyridin-4-yl)-methanol (4.68 g, 37.7 mmol) was dissolved in 40 mL anhydrous DMF under N2. Imidazole (2.57 g, 37.7 mmol, 1 equiv) was added followed by the addition of TBSCl (5.68 g, 37.7 mmol, 1 equiv). After 2 h the reaction was quenched by the addition of water. A precipitate formed which was filtered to afford pure desired product. The aqueous filtrate was extract 3× with EtOAc. The organic phases were dried over Na2SO4, filtered and concentrated to afford additional impure material. 1H NMR (CDCl3) δ7.99 (d, 1H, J=5.8 Hz), 6.57 (d, 1H, J=5.1 Hz), 6.51 (s, 1H), 4.64 (s, 2H), 4.40 (bs, 2H), 0.95 (s, 9H), 0.11 (s, 6H).

reactant | (2-Amino-pyridin-4-yl)-methanol | 37.7 mmol, 4.68 g | NC1=NC=CC(=C1)CO | C6H8N2O
reactant | Imidazole | 37.7 mmol, 2.57 g, 1 equiv | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 37.7 mmol, 5.68 g, 1 equiv | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-(tert-Butyl-dimethyl-silanyloxymethyl)-pyridin-2-ylamine | C(C)(C)(C)[SiH2]OC(C1=CC(=NC=C1)N)(C)C | C12H22N2OSi
